US07226923B2
4-Bromo-2-isopropyl-7-[methyl-(2-morpholin-4-yl-ethyl)-amino]-2H-phthalazin-1-one
4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one (0.13 g, 0.44 mmol) was dissolved in dimethylformamide (DMF) (5 ml). To this was added NaH (60%, 0.053 g, 1.3 mmol) as a suspension in DMF (2 ml). The mixture was stirred at room temperature for 30 minutes then 4-(2-Chloro-ethyl)-morpholine (0.12 g, 0.66 mmol) was added in one portion as a solution in DMF (1 ml) and the reaction mixture was heated to 70° C. for 24 hours. After this time, the reaction mixture was cooled to room temperature and water (10 ml) was added cautiously, the mixture was extracted with ethyl acetate (3×10 ml), the organic layers were combined, dried (MgSO4), filtered and concentrated under vacuum. Flash column chromatography (elution: 95% ethyl acetate, 5% methanol) gave the title compound (0.051 g, 30% yield) as a white solid.

reactant | 4-Bromo-2-isopropyl-7-methylamino-2H-phthalazin-1-one | 0.44 mmol, 0.13 g | BrC1=NN(C(C2=CC(=CC=C12)NC)=O)C(C)C | C12H14BrN3O
reactant | NaH | 1.3 mmol, 0.053 g | [H-].[Na+]
reactant | 4-(2-Chloro-ethyl)-morpholine | 0.66 mmol, 0.12 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 2 ml | CN(C=O)C | C3H7NO
solvent | DMF | 1 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-2-isopropyl-7-[methyl-(2-morpholin-4-yl-ethyl)-amino]-2H-phthalazin-1-one | 0.051 g, 30% yield | BrC1=NN(C(C2=CC(=CC=C12)N(CCN1CCOCC1)C)=O)C(C)C | C18H25BrN4O2
